### ISSUE TITLE
grind: cannot run `cases` on type that is a class field

### ISSUE THREAD

**Issue by robin-carlier** [leanprover/lean4#13809]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

When a type is defined class field, there is no way to ask `grind` to run its case module on the type

### Context

In Mathlib's category theory, `Quiver.Hom` instances are often (but not always) structures on which it would make sense to run `cases` when proving things about them. While `grind [MyStruct]` works fine, as soon as `MyStruct` appears "aliased" via a class field (such as `Quiver.Hom`), it is no longer possible to destruct them without making all `Quiver.Hom` reducible.

### Steps to Reproduce

```lean
/--
info: Lean 4.31.0-nightly-2026-05-21
Target: x86_64-unknown-linux-gnu
-/
#guard_msgs in
#version
class Quiver (V : Type) where
  Hom : V → V → Type

infixr:10 " ⟶ " => Quiver.Hom

opaque S : Type

namespace Test1

structure MyHom where
  x : Nat
  hx : x = 0

example (h h' : MyHom) :
  h = h' := by grind [MyHom]

instance : Quiver S where
  Hom _ _ := MyHom

attribute [grind] Quiver.Hom
/--
error: `grind` failed
case grind
x y : S
h h' : x ⟶ y
h_1 : ¬h = h'
⊢ False
[grind] Goal diagnostics
  [facts] Asserted facts
    [prop] ¬h = h'
    [prop] Quiver.Hom = Quiver.Hom
  [eqc] False propositions
    [prop] h = h'
  [ematch] E-matching patterns
    [thm] Quiver.Hom.eq_1: [@Quiver.Hom #1 #0]
[grind] Diagnostics
  [thm] E-Matching instances
    [thm] Quiver.Hom.eq_1 ↦ 1
-/
#guard_msgs in
example {x y : S} (h h' : x ⟶ y) :
    h = h' := by 
  grind [MyHom]
```

**Expected behavior:** the `grind` call successfully destructs `x ⟶ y` as a `Hom`, or there is a way to achieve that without additional lemmas and without marking `Quiver.Hom` reducible. 

**Actual behavior:** the `grind` call fails. In this particular example, marking `Quiver.Hom` as reducible fixes this, but one may not want to mark *all* `Quiver.Hom` reducible (e.g., in Mathlib).

### Versions

```
info: Lean 4.31.0-nightly-2026-05-21
Target: x86_64-unknown-linux-gnu
```

### Additional Information

[Additional information, configuration or data that might be necessary to reproduce the issue]

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
